US07439232B2
Next, to a solution of (2-chloropyrazin-3-yl)-(4-ethylphenyl)methanol (3.1 g, 0.0125 mol) in toluene (24 mL), KOH (2.8 g, 0.050 mol), K2CO3 (1.7 g, 0.0125 mol), benzyl alcohol (1.89 g, 0.0175 mol) and tris[2-(2-methoxyethoxy)ethyl]amine (0.40 g, 0.00125 mol) were added and stirred at 120° C. for 2 hours. After cooling the reaction mixture to room temperature, water was poured and the resulting mixture was extracted twice with ethyl acetate. The combined organic layers were washed with saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate. After the solvent was distilled off under reduced pressure, the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=87:13) to give 2-benzyloxy-3-(4-ethylbenzyl)pyrazine (420 mg, 11%) as a yellow oil.

reactant | (2-chloropyrazin-3-yl)-(4-ethylphenyl)methanol | 0.0125 mol, 3.1 g | ClC1=NC=CN=C1C(O)C1=CC=C(C=C1)CC | C13H13ClN2O
reactant | KOH | 0.050 mol, 2.8 g | [OH-].[K+]
reactant | K2CO3 | 0.0125 mol, 1.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | benzyl alcohol | 0.0175 mol, 1.89 g | C(C1=CC=CC=C1)O | C7H8O
reactant | tris[2-(2-methoxyethoxy)ethyl]amine | 0.00125 mol, 0.40 g | COCCOCCN(CCOCCOC)CCOCCOC | C15H33NO6
solvent | toluene | 24 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 2-benzyloxy-3-(4-ethylbenzyl)pyrazine | 420 mg, 11% | C(C1=CC=CC=C1)OC1=NC=CN=C1CC1=CC=C(C=C1)CC | C20H20N2O
